US05789591
2a. 2-(4-t-Butoxy-5-fluoro-3-methyl-2-pyridinyl)propionaldehyde
To a solution of LDA (6.22 mmol, prepared from diisopropylamine (0.81 mL) and n-BuLi (2.5M in hexanes, 2.49 mL) in THF (5.0 mL) at 0° C. was added N-(propylidene)-cyclohexylamine (0.89 mL, 6.47 mmol, prepared in situ from propionaldehyde and cyclohexylamine) dropwise, and the reaction mixture was stirred for 20 minutes. To this solution at 0° C. was added DMPU (6.22 mmol), the mixture was stirred for 10 minutes, then cooled to -78° C. To this solution was added 4-t-butoxy-5-fluoro-3-methylpyridine (0.50 mL, 2.49 mmol) dropwise, and the mixture was warmed to -20° C. and stirred at this temperature for 16 hours. The reaction was then quenched with acetic acid (1M, 15 mL), diluted with hexanes (100 mL) and dilute acetic acid (1M, 85 mL), and stirred vigorously for 1 hour. The organic layer was separated, washed with water, dried (MgSO4) and concentrated. The residue was purified by chromatography on silica gel, eluting with 5% to 10% ethyl acetate in hexanes, to afford the title compound (0.24 g, 49% yield) as an oil. MS 240 (M+H)+ ; 1H NMR (CDCl3) δ1.43 (d, 3H, J=7.0 Hz), 1.43 (d, 9H, J=1.1 Hz), 2.26 (s, 3H), 3.84 (q, 1H, J =7.0 Hz), 8.26 (d, 1H, J=2.2 Hz), 9.78 (d, 1H, J=1.1 Hz).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 0.81 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5M, 2.49 mL | [Li]CCCC
reactant | N-(propylidene)-cyclohexylamine | 6.47 mmol, 0.89 mL | C(CC)=NC1CCCCC1 | C9H17N
reactant | DMPU | 6.22 mmol | CN1CCCN(C1=O)C | C6H12N2O
reactant | 4-t-butoxy-5-fluoro-3-methylpyridine | 2.49 mmol, 0.50 mL | C(C)(C)(C)OC1=C(C=NC=C1F)C | C10H14FNO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 2-(4-t-Butoxy-5-fluoro-3-methyl-2-pyridinyl)propionaldehyde | 0.24 g, 49% yield | C(C)(C)(C)OC1=C(C(=NC=C1F)C(C=O)C)C | C13H18FNO2
